US04849421
To a solution of 0.9 g of 8-chloro-2-(4-chlorophenyl)-5,6-dihydro[1]benzothiepino[5,4-c]pyridazin-3(2H)-one, prepared in Example 24, in 20 ml of acetic acid is added 0.6 ml of 35% hydrogen peroxide with stirring at room temperature and the mixture is stirred for 18 hours at the same temperature. To the residue is added water, and the precipitated crystals are collected by filtration and repeatedly washed with ethanol to give 0.7 g of 8-chloro-2-(4-chlorophenyl)-5,6-dihydro-[1]benzothiepino[5,4-c]pyridazin-3(2H)-one 7-oxide, melting at 217°-219° C. with decomposition.

reactant | 8-chloro-2-(4-chlorophenyl)-5,6-dihydro[1]benzothiepino[5,4-c]pyridazin-3(2H)-one | 0.9 g | ClC1=CC=CC2=C1SCCC=1C2=NN(C(C1)=O)C1=CC=C(C=C1)Cl | C18H12Cl2N2OS
reactant | hydrogen peroxide | 0.6 ml | OO | H2O2
reactant | water | O | H2O
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | 8-chloro-2-(4-chlorophenyl)-5,6-dihydro-[1]benzothiepino[5,4-c]pyridazin-3(2H)-one 7-oxide | 0.7 g | ClC1=CC=CC2=C1S(CCC=1C2=NN(C(C1)=O)C1=CC=C(C=C1)Cl)=O | C18H12Cl2N2O2S
